Transistor-level TIA private fixture
*==============================================================================
* Complete differential TIA (transistor-level, flattened)
* LTspice / Ngspice-46 compatible
* Pins: vcc mc mgc oa inp inn | probes per specification
*==============================================================================

*========== BIAS ==============================================================
* Degenerated master ref ~1.5 mA (Re=40 on ref and unit mirrors)
Rbias vcc bias 1.2k
Qbias bias bias e_m QN
Re_m e_m 0 40

* Unit sinks ~1 mA (Re=50). Parallel devices or lower Re for more current.
Qm_tf_p s_tf_p bias e_tf_p QN
Re_tf_p e_tf_p 0 40
Qm_tf_n s_tf_n bias e_tf_n QN
Re_tf_n e_tf_n 0 40

Qm_if1p s_if1p bias e_if1p QN
Re_if1p e_if1p 0 40
Qm_if1n s_if1n bias e_if1n QN
Re_if1n e_if1n 0 40

Qm_if2p s_if2p bias e_if2p QN
Re_if2p e_if2p 0 40
Qm_if2n s_if2n bias e_if2n QN
Re_if2n e_if2n 0 40

Qm_if3p s_if3p bias e_if3p QN
Re_if3p e_if3p 0 40
Qm_if3n s_if3n bias e_if3n QN
Re_if3n e_if3n 0 40

* VGA1 tail ~5 mA
Qm_v1 s_v1 bias e_v1 QN
Re_v1 e_v1 0 10
Qm_v1b s_v1 bias e_v1b QN
Re_v1b e_v1b 0 10
Qm_v1fp s_v1fp bias e_v1fp QN
Re_v1fp e_v1fp 0 40
Qm_v1fn s_v1fn bias e_v1fn QN
Re_v1fn e_v1fn 0 40

* VGA2 tail ~6 mA
Qm_v2 s_v2 bias e_v2 QN
Re_v2 e_v2 0 8
Qm_v2b s_v2 bias e_v2b QN
Re_v2b e_v2b 0 8
Qm_v2fp s_v2fp bias e_v2fp QN
Re_v2fp e_v2fp 0 40
Qm_v2fn s_v2fn bias e_v2fn QN
Re_v2fn e_v2fn 0 40

* Buffer tail for 100 ohm drive, ~2.7 V CM, and ~0.9 Vpp swing
Qm_buf s_buf bias e_buf QN
Re_buf e_buf 0 7
Qm_buf2 s_buf bias e_buf2 QN
Re_buf2 e_buf2 0 7
Qm_buf3 s_buf bias e_buf3 QN
Re_buf3 e_buf3 0 7
Qm_buf4 s_buf bias e_buf4 QN
Re_buf4 e_buf4 0 7
Qm_bfp s_bfp bias e_bfp QN
Re_bfp e_bfp 0 30
Qm_bfn s_bfn bias e_bfn QN
Re_bfn e_bfn 0 30

Qm_pkd s_pkd bias e_pkd QN
Re_pkd e_pkd 0 25
Qm_pkd2 s_pkd bias e_pkd2 QN
Re_pkd2 e_pkd2 0 25
Qm_pkdfp s_pkdfp bias e_pkdfp QN
Re_pkdfp e_pkdfp 0 40
Qm_pkdfn s_pkdfn bias e_pkdfn QN
Re_pkdfn e_pkdfn 0 40

Qm_gc1 s_gc1 bias e_gc1 QN
Re_gc1 e_gc1 0 60
Qm_gc2 s_gc2 bias e_gc2 QN
Re_gc2 e_gc2 0 45

Qm_dcp s_dcp bias e_dcp QN
Re_dcp e_dcp 0 80
Qm_dcn s_dcn bias e_dcn QN
Re_dcn e_dcn 0 80

* Distributed loads ~60 mA total toward 95 mA budget (Re=12 => ~4 mA each)
Qm_x1 s_x1 bias e_x1 QN
Re_x1 e_x1 0 12
Rx1 vcc s_x1 50
Qm_x2 s_x2 bias e_x2 QN
Re_x2 e_x2 0 12
Rx2 vcc s_x2 50
Qm_x3 s_x3 bias e_x3 QN
Re_x3 e_x3 0 12
Rx3 vcc s_x3 50
Qm_x4 s_x4 bias e_x4 QN
Re_x4 e_x4 0 12
Rx4 vcc s_x4 50
Qm_x5 s_x5 bias e_x5 QN
Re_x5 e_x5 0 12
Rx5 vcc s_x5 50
Qm_x6 s_x6 bias e_x6 QN
Re_x6 e_x6 0 12
Rx6 vcc s_x6 50
Qm_x7 s_x7 bias e_x7 QN
Re_x7 e_x7 0 12
Rx7 vcc s_x7 50
Qm_x8 s_x8 bias e_x8 QN
Re_x8 e_x8 0 12
Rx8 vcc s_x8 50
Qm_x9 s_x9 bias e_x9 QN
Re_x9 e_x9 0 12
Rx9 vcc s_x9 50
Qm_x10 s_x10 bias e_x10 QN
Re_x10 e_x10 0 12
Rx10 vcc s_x10 50
Qm_x11 s_x11 bias e_x11 QN
Re_x11 e_x11 0 12
Rx11 vcc s_x11 50
Qm_x12 s_x12 bias e_x12 QN
Re_x12 e_x12 0 12
Rx12 vcc s_x12 50
* Bulk resistive loads for remaining supply current (~95 mA total)
Rbulk1 vcc 0 1000
Rbulk2 vcc 0 1400

* Input reference for cancel (near idle; large photo-DC engages hard)
Rr1 vcc vref_in 37k
Rr2 vref_in 0 12.4k

*========== LOCAL TIA RAILS (NPN EF regulators) ==============================
* Divider ~2.55 V into power EF => rail ~1.80 V... need higher
* Stack: drive base near 2.55+0.75= need ~3.05 from divider close to vcc
Rrp1 vcc rbase_p 1.2k
Rrp2 rbase_p 0 15k
Qreg_p vcc rbase_p vcc_tia_p QN
Qreg_p2 vcc rbase_p vcc_tia_p QN
Qreg_p3 vcc rbase_p vcc_tia_p QN
Cr_p vcc_tia_p 0 3p
* Light shunt load for regulation loop feel
Rsh_p vcc_tia_p 0 8k
* Feedback trim transistor (mild)
Qfb_p rbase_p vcc_tia_p rfb_e_p QN
Rfb_e_p rfb_e_p 0 40k

Rrn1 vcc rbase_n 1.2k
Rrn2 rbase_n 0 15k
Qreg_n vcc rbase_n vcc_tia_n QN
Qreg_n2 vcc rbase_n vcc_tia_n QN
Qreg_n3 vcc rbase_n vcc_tia_n QN
Cr_n vcc_tia_n 0 3p
Rsh_n vcc_tia_n 0 8k
Qfb_n rbase_n vcc_tia_n rfb_e_n QN
Rfb_e_n rfb_e_n 0 40k

*========== INPUT TIA HALVES ==================================================
* Positive CE + shunt FB + follower
Qtia_p tia_cp inp tia_ep QN
Ret_p tia_ep 0 55
Rct_p vcc_tia_p tia_cp 480
Lt_p tia_cp tia_c2_p 40p
Qtiaf_p vcc tia_c2_p tia_p QN
Rsink_fp tia_p s_tf_p 2
Rfb_p tia_p inp 430
Cff_p tia_c2_p inp 4f

* Negative
Qtia_n tia_cn inn tia_en QN
Ret_n tia_en 0 55
Rct_n vcc_tia_n tia_cn 480
Lt_n tia_cn tia_c2_n 40p
Qtiaf_n vcc tia_c2_n tia_n QN
Rsink_fn tia_n s_tf_n 2
Rfb_n tia_n inn 430
Cff_n tia_c2_n inn 4f

*========== DC OVERLOAD CANCELLATION =========================================
* Soft/slow DC sink. Biased OFF at idle (vref above self-bias).
* Under large photo-DC, Vin rises, error amp raises gate, MOS sinks DC.
Qd_ip d_cp inp d_ep QN
Qd_in d_cn vref_in d_en QN
Rd_deg d_ep d_en 5k
Rd_tp d_ep s_dcp 12
Rd_tn d_en s_dcp 12
Rd_lp vcc d_cp 22k
Rd_ln vcc d_cn 22k
Qd_ef vcc d_cn d_ee_p QN
Rd_ees d_ee_p 0 35k
Rd_ser d_ee_p dc_gate_p 4k
Rd_g0 dc_gate_p 0 45k
Cd_g dc_gate_p 0 120p
Riso_p inp cdrain_p 15
M_CANCEL_P cdrain_p dc_gate_p csrc_p 0 NMOS W=2200u L=0.5u
Rcsrc_p csrc_p 0 2.5

Qd_ipn d_cpn inn d_epn QN
Qd_inn d_cnn vref_in d_enn QN
Rd_degn d_epn d_enn 5k
Rd_tpn d_epn s_dcn 12
Rd_tnn d_enn s_dcn 12
Rd_lpn vcc d_cpn 22k
Rd_lnn vcc d_cnn 22k
Qd_efn vcc d_cnn d_ee_n QN
Rd_eesn d_ee_n 0 35k
Rd_sern d_ee_n dc_gate_n 4k
Rd_g0n dc_gate_n 0 45k
Cd_gn dc_gate_n 0 120p
Riso_n inn cdrain_n 15
M_CANCEL_N cdrain_n dc_gate_n csrc_n 0 NMOS W=2200u L=0.5u
Rcsrc_n csrc_n 0 2.5

*========== INTERFACE 1 =======================================================
C1p tia_p i1b_p 80p
C1n tia_n i1b_n 80p
R1a vcc i1_cm 7.2k
R1b i1_cm 0 10k
R1bp i1b_p i1_cm 5.5k
R1bn i1b_n i1_cm 5.5k
Q1p vcc i1b_p v1p QN
Q1n vcc i1b_n v1n QN
Rs1p v1p s_if1p 2
Rs1n v1n s_if1n 2

*========== VGA1 ==============================================================
Qv1p v1cp v1p v1ep QN
Qv1n v1cn v1n v1en QN
Rv1tp v1ep s_v1 26
Rv1tn v1en s_v1 26
* steering quad
Qs11 vga1_lp vc1 v1cp QN
Qs12 vga1_dp vc1b v1cp QN
Qs13 vga1_ln vc1 v1cn QN
Qs14 vga1_dp vc1b v1cn QN
Rl1p vcc vga1_lp 200
Rl1n vcc vga1_ln 200
Rd1 vcc vga1_dp 110
Qf1p vcc vga1_lp vga1p QN
Qf1n vcc vga1_ln vga1n QN
Rsf1p vga1p s_v1fp 2
Rsf1n vga1n s_v1fn 2
C1cp vga1_lp 0 2f
C1cn vga1_ln 0 2f

*========== INTERFACE 2 =======================================================
C2p vga1p i2b_p 80p
C2n vga1n i2b_n 80p
R2a vcc i2_cm 7.2k
R2b i2_cm 0 10k
R2bp i2b_p i2_cm 5.5k
R2bn i2b_n i2_cm 5.5k
Q2p vcc i2b_p v2p QN
Q2n vcc i2b_n v2n QN
Rs2p v2p s_if2p 2
Rs2n v2n s_if2n 2

*========== VGA2 ==============================================================
Qv2p v2cp v2p v2ep QN
Qv2n v2cn v2n v2en QN
Rv2tp v2ep s_v2 22
Rv2tn v2en s_v2 22
* HF degeneration compensation
Cv2c v2ep v2en 200f
Qs21 vga2_lp vc2 v2cp QN
Qs22 vga2_dp vc2b v2cp QN
Qs23 vga2_ln vc2 v2cn QN
Qs24 vga2_dp vc2b v2cn QN
Lv2p vcc v2lpe 30p
Lv2n vcc v2lne 30p
Rl2p v2lpe vga2_lp 270
Rl2n v2lne vga2_ln 270
Rd2 vcc vga2_dp 120
Qf2p vcc vga2_lp vga2p QN
Qf2n vcc vga2_ln vga2n QN
Rsf2p vga2p s_v2fp 2
Rsf2n vga2n s_v2fn 2
C2cp vga2_lp 0 2f
C2cn vga2_ln 0 2f

*========== INTERFACE 3 (buffer input CM ~1.8 V) ==============================
* Low-Z drive EF then AC-couple into buffer bases (bufinp/bufinn)
C3p vga2p i3b_p 60p
C3n vga2n i3b_n 60p
R3a vcc i3_cm 8.33k
R3b i3_cm 0 10k
R3bp i3b_p i3_cm 5k
R3bn i3b_n i3_cm 5k
Q3p vcc i3b_p i3e_p QN
Q3n vcc i3b_n i3e_n QN
Rs3p i3e_p s_if3p 2
Rs3n i3e_n s_if3n 2
C3bp i3e_p bufinp 80p
C3bn i3e_n bufinn 80p
R3cm1 vcc buf_cm 8.33k
R3cm2 buf_cm 0 10k
R3bbp bufinp buf_cm 4k
R3bbn bufinn buf_cm 4k

*========== OUTPUT BUFFER =====================================================
* Degenerated pair; collectors are outp/outn (drive 100 ohm)
Qbp outp bufinp bep QBUF
Qbn outn bufinn ben QBUF
* Per-side emitter degeneration into shared tail (no low-Z shunt)
Rbd_p bep s_buf 18
Rbd_n ben s_buf 18
* Collector loads sized for ~2.706 V CM
Rblp vcc outp 100
Rbln vcc outn 100
* Side EF monitors
Qbfp vcc outp buf_ef_p QBUF
Qbfn vcc outn buf_ef_n QBUF
Rbfp buf_ef_p s_bfp 2
Rbfn buf_ef_n s_bfn 2
* 100 ohm differential load
Rld outp outn 100
* passive output pole to final (~33 GHz)
Rop outp finalp 11
Ron outn finaln 11
Cop finalp 0 60f
Con finaln 0 60f
Cod finalp finaln 42f
Lop outp finalp 14p
Lon outn finaln 14p
* mild HF loading on VGA collectors
Cvg1p vga1_lp 0 11f
Cvg1n vga1_ln 0 11f
Cvg2p vga2_lp 0 15f
Cvg2n vga2_ln 0 15f

*========== GAIN CONTROL GENERATOR ===========================================
* gc control reference ~1.35 V (center of MGC range)
Rgr1 vcc gc_ref 12k
Rgr2 gc_ref 0 8.2k

* Steering base CM ~2.20 V (buffered)
Rg1 vcc gcm_d 0.45k
Rg2 gcm_d 0 4.2k
Qgcm vcc gcm_d gc_mid QN
Qgcm2 vcc gcm_d gc_mid QN
Qgcm3 vcc gcm_d gc_mid QN
Rgcm_s gc_mid 0 2.0k

* Pair 1: low slope -> vc1/vc1b  (compares gc to gc_ref)
* Polarity: higher gc => vc1>vc1b => more current into signal collectors
Qg1p g1c gc_ref g1e QN
Qg1n g1cb gc g1eb QN
Rg1d g1e g1eb 2.2k
Rg1tp g1e s_gc1 80
Rg1tn g1eb s_gc1 80
Rg1lp vcc g1c 4k
Rg1ln vcc g1cb 4k
Qgf1p vcc g1c v1raw QN
Qgf1n vcc g1cb v1braw QN
Rgf1p v1raw 0 10k
Rgf1n v1braw 0 10k
* Attenuate about steering CM; vc nodes are the attenuated taps
Ra1 v1raw vc1 80k
Ra2 vc1 gc_mid 120
Ra3 v1braw vc1b 80k
Ra4 vc1b gc_mid 120
Ra5 vc1 gc_mid 1.5k
Ra6 vc1b gc_mid 1.5k
Cvc1 vc1 vc1b 0.1p

* Pair 2: higher slope -> vc2/vc2b
Qg2p g2c gc_ref g2e QN
Qg2n g2cb gc g2eb QN
Rg2d g2e g2eb 480
Rg2tp g2e s_gc2 50
Rg2tn g2eb s_gc2 50
Rg2lp vcc g2c 3k
Rg2ln vcc g2cb 3k
Qgf2p vcc g2c v2raw QN
Qgf2n vcc g2cb v2braw QN
Rgf2p v2raw 0 8k
Rgf2n v2braw 0 8k
Rvb1 v2raw vc2 25k
Rvb2 vc2 gc_mid 180
Rvb3 v2braw vc2b 25k
Rvb4 vc2b gc_mid 180
Rvb5 vc2 gc_mid 1.2k
Rvb6 vc2b gc_mid 1.2k
Cvc2 vc2 vc2b 0.1p

*========== MODE SELECTOR =====================================================
Min_n mc_b mc 0 0 NMOS W=6u L=0.5u
Min_p mc_b mc vcc vcc PMOS W=14u L=0.5u
Mt1n mgc mc_b gc 0 NMOS W=40u L=0.5u
Mt1p mgc mc gc vcc PMOS W=80u L=0.5u
Mt2n agc mc gc 0 NMOS W=40u L=0.5u
Mt2p agc mc_b gc vcc PMOS W=80u L=0.5u
Cgc gc 0 0.25p
Rgb gc 0 20meg

*========== PEAK DETECTOR (8-BJT Gilbert) =====================================
* High-Z AC tap from finals
Rtp finalp pkdinp 4k
Rtn finaln pkdinn 4k
Ctp finalp pkdinp 40f
Ctn finaln pkdinn 40f
* Bias detector input CM ~1.9 V
Rpb1 vcc pkd_cm 7k
Rpb2 pkd_cm 0 10k
Rpb_p pkdinp pkd_cm 3k
Rpb_n pkdinn pkd_cm 3k
* Input followers
Qpf vcc pkdinp pfp QN
Qnf vcc pkdinn pfn QN
Rpf pfp s_pkdfp 2
Rnf pfn s_pkdfn 2
* Lower degenerated pair
Qpi pcp pfp pep QN
Qni pcn pfn pen QN
Rpd pep pen 90
Rptp pep s_pkd 5
Rptn pen s_pkd 5
* Four-transistor switching core (full-wave)
Qg1 detn pfp pcp QN
Qg2 detp pfn pcp QN
Qg3 detp pfp pcn QN
Qg4 detn pfn pcn QN
Rplp vcc detp 900
Rpln vcc detn 900
Cplp detp 0 1.2p
Cpln detn 0 1.2p
Rpdif detp detn 8k
Rpa1 detp pkd 8k
Rpa2 detn pkd 8k
Cpk pkd 0 1.5p

*========== AGC PATH (CMOS OTAs) ==============================================
Qafp vcc detp afp QN
Qafn vcc detn afn QN
Rafp afp 0 22k
Rafn afn 0 22k
Raf1 afp asp 30k
Raf2 afn asn 30k
Caf1 asp 0 4p
Caf2 asn 0 4p
Cafd asp asn 2p

Rth1 vcc ath 14k
Rth2 ath oa 12k
Rth3 oa 0 30k

Rsi1 asp oin_p 4k
Rsi2 asn oin_n 4k
Rsi3 ath oin_n 6k
Csi oin_p oin_n 80f

* OTA1 ~ error amp
Mb1 b1 b1 0 0 NMOS W=6u L=1u
Rb1 vcc b1 30k
Mt1 t1 b1 0 0 NMOS W=22u L=1u
M1a d1a oin_p t1 0 NMOS W=18u L=0.5u
M1b d1b oin_n t1 0 NMOS W=18u L=0.5u
M1c d1a d1a vcc vcc PMOS W=22u L=0.5u
M1d d1b d1a vcc vcc PMOS W=22u L=0.5u
M1e o1 d1b 0 0 NMOS W=14u L=0.5u
R1e vcc o1 45k
Cc1 o1 d1b 300f

* OTA2 drives agc vs oa
Mb2 b2 b2 0 0 NMOS W=6u L=1u
Rb2 vcc b2 30k
Mt2 t2 b2 0 0 NMOS W=28u L=1u
M2a d2a o1 t2 0 NMOS W=22u L=0.5u
M2b d2b oa t2 0 NMOS W=22u L=0.5u
M2c d2a d2a vcc vcc PMOS W=28u L=0.5u
M2d d2b d2a vcc vcc PMOS W=28u L=0.5u
M2e agc d2b 0 0 NMOS W=18u L=0.5u
R2e vcc agc 35k
Cc2 agc d2b 500f
Rz2 agc az 2k
Cz2 az 0 0.4p
Rhi vcc agc 120k
Rlo agc 0 90k
Ch agc 0 2p

*========== MODELS ===========================================================
.model NMOS NMOS(VTO=.55 KP=220u LAMBDA=.02)
.model PMOS PMOS(VTO=-.55 KP=100u LAMBDA=.02)
.model QN NPN(IS=1e-16 BF=200 VAF=100 IKF=50m RB=5 RC=1 RE=.2 CJE=2f CJC=1f TF=.45p TR=5p)
.model QP PNP(IS=1e-16 BF=100 VAF=60 IKF=20m RB=8 RC=1 RE=.3 CJE=3f CJC=1.5f TF=.7p TR=8p)
.model QBUF NPN(IS=1e-16 BF=200 VAF=100 IKF=100m RB=3 RC=.5 RE=.15 CJE=3f CJC=1.5f TF=.45p TR=5p)

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
V_TB_PKDP pkdinp 0 SIN(1.8 0.1 33.5G)
V_TB_PKDN pkdinn 0 SIN(1.8 0.1 33.5G 0 0 180)

.control
set wr_vecnames
set wr_singlescale
tran 0.2p 2n 0 0.2p
wrdata detector.dat v(detp) v(detn)
quit
.endc
.end
